US07531532B2
4-Methylpiperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide
To a solution of 4-methylpiperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (339 mg, 0.903 mmol) in methanol (30 ml) was added 10% palladium carbon (100 mg), followed by stirring under a hydrogen atmosphere at room temperature for 2 hrs. The catalyst was filtered. The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, hexane:ethyl acetate=1:1, then ethyl acetate) to provide the titled compound (196 mg, 62.8%) as a yellow oil.

reactant | 4-methylpiperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 0.903 mmol, 339 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C17H18FN5O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 4-Methylpiperazine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 196 mg, 62.8% | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C)C=C1)F | C17H20FN5O2
